US03957790
N-3,3-Diphenylpropylpiperazine in the amount of 14.0 g (0.05 mole), 10.8 g (0.05 mole) of 3,4,5-trimethoxybenzylchloride, and 5.05 g (0.05 mole) of triethylamine were dissolved in 100 ml of xylene, and the same procedure as that of Example 1 was followed to obtain 20.4 g of 1-(3,3-diphenylpropyl)-4-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride (76.7% yield) with a melting point of 178°C.

reactant | N-3,3-Diphenylpropylpiperazine | C1(=CC=CC=C1)C(CCN1CCNCC1)C1=CC=CC=C1 | C19H24N2
reactant | 3,4,5-trimethoxybenzylchloride | 0.05 mole, 10.8 g | COC=1C=C(CCl)C=C(C1OC)OC | C10H13ClO3
reactant | triethylamine | 0.05 mole, 5.05 g | C(C)N(CC)CC | C6H15N
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(3,3-diphenylpropyl)-4-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride | 20.4 g, 76.7% yield | Cl.Cl.C1(=CC=CC=C1)C(CCN1CCN(CC1)CC1=CC(=C(C(=C1)OC)OC)OC)C1=CC=CC=C1 | InChI=1S/C29H36N2O3.2ClH/c1-32-27-20-23(21-28(33-2)29(27)34-3)22-31-18-16-30(17-19-31)15-14-26(24-10-6-4-7-11-24)25-12-8-5-9-13-25;;/h4-13,20-21,26H,14-19,22H2,1-3H3;2*1H
